US08067599B2
5-Nitro-1H-pyrrolo[2,3-b]pyridine
To a solution of 500 mg 5-Nitro-3-trimethylsilanylethynyl-pyridin-2-ylamine in 4 ml ethanol were added 93.5 mg sodium hydroxide, and the mixture was stirred under irradiation in a microwave-oven for 30 minutes (min) at 140° C. 20 equal batches of this kind were combined and evaporated. The residue was dissolved in 100 ml conc. hydrochloric acid and stirred for 30 min at RT. It was again evaporated and the residue was refluxed with THF for 30 min. Insoluble parts were removed by filtration, the filtrate was evaporated and the residue was chromatographed on silica in ethyl acetate/heptane mixtures.

reactant | 5-Nitro-3-trimethylsilanylethynyl-pyridin-2-ylamine | 500 mg | [N+](=O)([O-])C=1C=C(C(=NC1)N)C#C[Si](C)(C)C | C10H13N3O2Si
reactant | sodium hydroxide | 93.5 mg | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-Nitro-1H-pyrrolo[2,3-b]pyridine | [N+](=O)([O-])C=1C=C2C(=NC1)NC=C2 | C7H5N3O2
